US07947688B2
8.37 g (36.21 mmol) de N-(3-acetylphenyl)-2,2,2-trifluoro-acetamide were dissolved in 80 ml of N,N-dimethyl formamide. To the resultant solution 24.23 ml (181.02 mmol) of N,N-dimethylformamide dimethyl acetal were added and heated at 150° C. for 2 h. The solvent was removed by reduced pressure distillation to yield an oil which was treated with 50 ml of water and extract with 3×100 ml of dichloromethane. The organic layers were washed with 2×200 ml of a saturated solution of sodium chloride, dried over anhydrous sodium sulfate and evaporated to dryness by reduced pressure distillation. A solid was obtained, which precipitated from a mixture of ethanol-ethyl ether to give 4.1 g (yield=55%) of 3-(dimethylamino)-1-[3-(methylamino)phenyl]prop-2-en-1-one.

reactant | N-(3-acetylphenyl)-2,2,2-trifluoro-acetamide | C(C)(=O)C=1C=C(C=CC1)NC(C(F)(F)F)=O | C10H8F3NO2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethyl formamide | 80 ml | CN(C=O)C | C3H7NO
product | 3-(dimethylamino)-1-[3-(methylamino)phenyl]prop-2-en-1-one | 4.1 g, yield=55% | CN(C=CC(=O)C1=CC(=CC=C1)NC)C | C12H16N2O
